US09029538B2
1-((S)-2,3-Dihydroxypropyl)-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid [4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenyl]-amide.
1-((S)-2,2-Dimethyl-1,3-dioxolan-4-ylmethyl)-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (0.0446 g, 0.122 mmol) and N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (0.0466 g, 0.122 mmol) in N,N-dimethylformamide (2.00 mL) was added N,N-diisopropylethylamine (0.0388 mL, 0.223 mmol) and stirred at rt for 15 min. 4-(6,7-Dimethoxyquinolin-4-yloxy)-3-fluorophenylamine (0.035 g, 0.11 mmol) was added and stirred overnight. The solution was diluted with EtOAc, washed with 1N Na2CO3, water and brine then dried over MgSO4 and concentrated. MeOH was added (1 mL) and a solid separated. This material was dissolved in 4 M of hydrogen chloride in 1,4-dioxane (2 mL, 8 mmol), stirred for 2 h and then concentrated. To this product was added MeOH and the precipitate collected to give a white solid. mp=165-6° C.; LCMS m/z=621 (M+1); 1H NMR (DMSO) δ: 11.0 (s, 1H), 8.72 (s, 1H), 8.48 9 d, 1H, J=5.4 Hz), 8.01, 7.98 (dd, 1H, J=2.4, 13.5 Hz), 7.52-7.55 (j, 1H), 7.34-7.46 (m, 6H), 6.47 (d, 1H, J=5.4 Hz), 6.17 (d, 1H, J=5 Hz), 4.78 (t, 1H, J=5.7 Hz), 4.22 (d, 1H, J=10 Hz), 3.94 (d, 6H), 3.75-3.78 (m, 2H), 3.3 (m, 2H).

reactant | 1-((S)-2,2-Dimethyl-1,3-dioxolan-4-ylmethyl)-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | 0.122 mmol, 0.0446 g | CC1(OC[C@@H](O1)CN1C(N(C(C(=C1)C(=O)O)=O)C1=CC=C(C=C1)F)=O)C | C17H17FN2O6
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.122 mmol, 0.0466 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.223 mmol, 0.0388 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-(6,7-Dimethoxyquinolin-4-yloxy)-3-fluorophenylamine | 0.11 mmol, 0.035 g | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)N)F | C17H15FN2O3
reactant | 1,4-dioxane | 8 mmol, 2 mL | O1CCOCC1 | C4H8O2
solvent | N,N-dimethylformamide | 2.00 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | hydrogen chloride | 4 M | Cl | ClH
product | 1-((S)-2,3-Dihydroxypropyl)-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid [4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenyl]-amide | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)C=1C(N(C(N(C1)C[C@@H](CO)O)=O)C1=CC=C(C=C1)F)=O)F | C31H26F2N4O8
